US04013690
11 g of a 55% oily sodium hydride dispersion are deoiled with petroleum ether in an atmosphere of nitrogen, and 500 cc of dry tetrahydrofuran are then added. 44 g of 3 -cyclohexyl-phenol in 500 cc of dry tetrahydrofuran are added dropwise within approximately 30 minutes while stirring. 46 g of 2-bromopropionic acid ethyl ester are then added dropwise while stirring. The reaction mixture is heated to 60° for 1 hour and is then allowed to stand at room temperature for 16 hours. The reaction mixture is concentrated by evaporation and the residue is divided thrice between methylene chloride and water. The aqueous phases are again extracted twice with methylene chloride. The organic phases are combined, dried over anhydrous sodium sulphate and concentrated. The residue is boiled at reflux for 2 hours in a solution of 50 g of potassium hydroxide in 900 cc of methanol and 100 cc of water. The reaction solution is concentrated to a great extent by evaporation, acidified to pH = 2 with 2 N hydrochloric acid and extracted thrice with methylene chloride. The organic phases are washed once with water, combined, dried over anhydrous sodium sulphate and concentrated. Recrystallization of the residue from petroleum ether yields 2-(3-cyclohexyl-phenoxy)propionic acid having an M.P. of 81°-82°.

reactant | sodium hydride | [H-].[Na+]
reactant | 3 -cyclohexyl-phenol | 44 g | C1(CCCCC1)C=1C=C(C=CC1)O | C12H16O
reactant | 2-bromopropionic acid ethyl ester | 46 g | C(C)OC(C(C)Br)=O | C5H9BrO2
solvent | tetrahydrofuran | 500 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 cc | O1CCCC1 | C4H8O
product | 2-(3-cyclohexyl-phenoxy)propionic acid | C1(CCCCC1)C=1C=C(OC(C(=O)O)C)C=CC1 | C15H20O3
